US07495110B2
Stage 3: 3-amino-N,N-diisobutyl-4-({3-[methyl(2-pyridin-2-ylethyl)amino]propyl}amino)benzamide
N,N-diisobutyl-4-({3-[methyl(2-pyridin-2-ylethyl)amino]propyl}amino)-3-nitrobenzamide (2.9 g) in solution in an ethyl acetate/ethanol mixture (100 ml), and 10% palladium on carbon (290 mg) are added together in an autoclave. After stirring for 7 hours under a hydrogen atmosphere (3 bars), the catalyst is eliminated by filtration on Celite and the filtrate is concentrated under reduced pressure at 40° C. in order to produce the expected compound in the form of an oil (2.5 g, 92% yield).

reactant | N,N-diisobutyl-4-({3-[methyl(2-pyridin-2-ylethyl)amino]propyl}amino)-3-nitrobenzamide | 2.9 g | C(C(C)C)N(C(C1=CC(=C(C=C1)NCCCN(CCC1=NC=CC=C1)C)[N+](=O)[O-])=O)CC(C)C | C26H39N5O3
catalyst | palladium on carbon | 290 mg | [Pd] | Pd
solvent | ethyl acetate ethanol | 100 ml | C(C)(=O)OCC.C(C)O
product | 3-amino-N,N-diisobutyl-4-({3-[methyl(2-pyridin-2-ylethyl)amino]propyl}amino)benzamide | NC=1C=C(C(=O)N(CC(C)C)CC(C)C)C=CC1NCCCN(CCC1=NC=CC=C1)C | C26H41N5O
